US09351955B2
2-Cyclopropylmethyl-malonic acid diethyl ester
A solution of NaOEt in EtOH (2.7 M, 2.6 mL, 6.9 mmol) is cooled at 0° C. and diethylmalonate (0.95 mL, 6.2 mmol) is added with another 1.5 mL of EtOH. Bromo methyl cyclopropane (0.67 mL, 6.9 mmol) is subsequently added. The resulting mixture is allowed to reach room temperature and stirred overnight. The mixture is then quenched with water and extracted with ether. The organic phase is dried and evaporated to give the desired product that is used as such.

reactant | NaOEt | CC[O-].[Na+]
reactant | diethylmalonate | 6.2 mmol, 0.95 mL | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | Bromo methyl cyclopropane | 6.9 mmol, 0.67 mL | BrCC1CC1 | C4H7Br
reactant | EtOH | 1.5 mL | CCO | C2H6O
reactant | EtOH | 6.9 mmol, 2.7 M, 2.6 mL | CCO | C2H6O
product | 2-Cyclopropylmethyl-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CC1CC1)=O | C11H18O4
